US07365069B2
N-(4-Ethylphenyl)pyridine-2-carboximidamide
The title compound was prepared from 2-cyanopyridine (8.5 g, 82 mmol) and 4-ethylaniline (10 g, 82 mmol) by following the procedure described in preparation 10 (13.22 g, yield 71%, mp 75-77 C, purity 99.9% by HPLC). 1H-NMR (CDCl3):δ 1.22-1.26 (t, 3H), 2.61-2.66 (q, 2H), 6.93-6.95 (d, 2H), 7.18-7.25 (m, 2H), 7.36-7.39 (m, 1H), 7.78-7.82 (m, 1H), 8.40-8.42 (d, 1H), 8.56-8.57 (d, 1H). MS m/z: 227.3 (M+).

reactant | 2-cyanopyridine | 82 mmol, 8.5 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | 4-ethylaniline | 82 mmol, 10 g | C(C)C1=CC=C(N)C=C1 | C8H11N
product | N-(4-Ethylphenyl)pyridine-2-carboximidamide | yield 71% | C(C)C1=CC=C(C=C1)NC(=N)C1=NC=CC=C1 | C14H15N3
